US08614220B2
Step 1. Methyl-4-(4-methyl-3-nitro-phenyl)-piperazine
In a cylindrical quartz tube were placed 4-fluoro-1-methyl-2-nitro-benzene (20.0 g, 129 mmol) and N-methyl-piperazine (26 g, 258 mmol). The reaction was heated for 48 hours at 200° C. The solvent was removed under reduced pressure and the residue was dissolved in DCM. The solution was washed twice with water and the organic phase was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The final compound (14.65 g, 48% yield) was obtained as a brown oil.

reactant | 4-fluoro-1-methyl-2-nitro-benzene | 129 mmol, 20.0 g | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | N-methyl-piperazine | 258 mmol, 26 g | CN1CCNCC1 | C5H12N2
product | Methyl-4-(4-methyl-3-nitro-phenyl)-piperazine | 14.65 g, 48% yield | CN1CCN(CC1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C12H17N3O2
